US09388173B2
Step 2: 6-bromo-1-(tetrahydro-2H-pyran-4-yl)-1H-benzo[d]imidazole
To a solution of N-(5-bromo-2-nitrophenyl)tetrahydro-2H-pyran-4-amine (600 mg, 1.99 mmol) in HCOOH (10 mL) was added Fe powder (1.3 g, 23.2 mmol). After stirring for 4 h at reflux temperature, the mixture was diluted with MeOH (100 mL) and filtered over a Celite pad. The filtrate was concentrated to give the title compound which was directly used for next step without further purification.

reactant | N-(5-bromo-2-nitrophenyl)tetrahydro-2H-pyran-4-amine | 1.99 mmol, 600 mg | BrC=1C=CC(=C(C1)NC1CCOCC1)[N+](=O)[O-] | C11H13BrN2O3
reactant | HCOOH | 10 mL | C(=O)O | CH2O2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Fe | 23.2 mmol, 1.3 g | [Fe] | Fe
product | 6-bromo-1-(tetrahydro-2H-pyran-4-yl)-1H-benzo[d]imidazole | BrC=1C=CC2=C(N(C=N2)C2CCOCC2)C1 | C12H13BrN2O
